US07776897B2
1-(2-Thienyl)cyclobutanecarboxylic acid, methyl iodide, and potassium hydrogen carbonate were reacted in DMF at room temperature to obtain methyl 1-(2-thienyl)cyclobutanecarboxylate.

reactant | 1-(2-Thienyl)cyclobutanecarboxylic acid | S1C(=CC=C1)C1(CCC1)C(=O)O | C9H10O2S
reactant | methyl iodide | CI | CH3I
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 1-(2-thienyl)cyclobutanecarboxylate | S1C(=CC=C1)C1(CCC1)C(=O)OC | C10H12O2S
